US04025630
A mixture of 0.167 mole of methyl δ-chlorovalerate and 0.25 mole of sodium iodide in 120 ml. of acetone is stirred and heated at reflux for 16 hours. After cooling the mixture, a solid is removed by suction filtration, and the acetone is distilled off using a rotary evaporator. The residue is dissolved in 300 ml. of diethyl ether, and additional solid is removed by filtration. The ethereal solution is washed twice with a 10% sodium thiosulfate solution, one with water and dried over sodium sulfate. The ether is evaporated and the residue distilled at b.p. 107°-110° C. (15 mm.) to give 30.0 g. (74%) of methyl δ-iodovalerate as a light yellow liquid. 30.0 g. (0.124 mole) of methyl δ-iodovalerate and 42.5 g. (0.50 mole) of piperidine are dissolved in 250 ml. of benzene and heated at 60° C. for 3 hours with stirring. A colorless solid begins to appear shortly after the materials are combined. The solid is removed by suction filtration, and the benzene evaporated to give methyl δ-piperidinovalerate which distills as 23.5 g. (95%) of colorless liquid, b.p., 122°-24° C. (12.5 mm.).

reactant | methyl δ-chlorovalerate | 0.167 mole | ClCCCCC(=O)OC | C6H11ClO2
reactant | sodium iodide | 0.25 mole | [I-].[Na+]
reactant | methyl δ-iodovalerate | ICCCCC(=O)OC | C6H11IO2
reactant | methyl δ-iodovalerate | 0.124 mole | ICCCCC(=O)OC | C6H11IO2
reactant | piperidine | 0.50 mole | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | CC(=O)C | C3H6O
product | methyl δ-piperidinovalerate | N1(CCCCC1)CCCCC(=O)OC | C11H21NO2
